US04178449
2-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 24.3 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 150 ml. of glacial acetic acid and 12.2 g. of 3-methyl-5-aminopyrazole-4-carbonitrile is refluxed for 6 hours and then evaporated. The residue is treated as described in Example 1, giving the desired product, m.p. 149°-150° C.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 3-methyl-5-aminopyrazole-4-carbonitrile | CC1=NNC(=C1C#N)N | C5H6N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | CC1=NN2C(N=CC=C2C=2C=C(C=CC2)C(F)(F)F)=C1C#N | C15H9F3N4
